US04657929
N-[2-(3-Amino-4-methoxyphenyl]ethyl]-2,2,2-trifluoro acetamide (2.62 g., 0.01 moles) in dry dimethylformamide (50 ml) was added dropwise with stirring to sodium hydride (0.3 g., 80% oil dispersion, 0.01 moles) in dry dimethylformamide (50 ml) under nitrogen. The solution was warmed at 60° for 30 min then cooled and N-(6-bromohexyl)-2,2,2-trifluoro-N-(2-phenylethyl)acetamide (3.80 g., 0.01 mole) was added. The solution was stirred for 4 hours then quenched with water and extracted with ethyl acetate. The extracts were washed with water dried and evaporated to give crude N-[2-(3-amino-4-methoxyphenyl)ethyl]-N'-(2-phenylethyl)-1,6-hexanediylbis (2,2,2-trifluoroacetamide) (3.1 g) as a pale brown oil.

reactant | N-[2-(3-Amino-4-methoxyphenyl]ethyl]-2,2,2-trifluoro acetamide | 0.01 moles, 2.62 g | NC=1C=C(C=CC1OC)CCNC(C(F)(F)F)=O | C11H13F3N2O2
reactant | sodium hydride | 0.01 moles, 0.3 g | [H-].[Na+]
reactant | N-(6-bromohexyl)-2,2,2-trifluoro-N-(2-phenylethyl)acetamide | 0.01 mole, 3.80 g | BrCCCCCCN(C(C(F)(F)F)=O)CCC1=CC=CC=C1 | C16H21BrF3NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-amino-4-methoxyphenyl)ethyl]-N'-(2-phenylethyl)-1,6-hexanediylbis (2,2,2-trifluoroacetamide) | 3.1 g | NC=1C=C(C=CC1OC)CCN(C(C(F)(F)F)=O)CCCCCCN(C(C(F)(F)F)=O)CCC1=CC=CC=C1 | C27H33F6N3O3
